US08022223B2
Step C: Preparation of (R)-ethyl 2-amino-5-methylcyclopent-1-enecarboxylate:
To a solution of (R)-ethyl 2-methyl-5-oxocyclopentanecarboxylate (106 g, 622 mmol) in 1.2 L MeOH was added ammonium acetate (240 g, 3.1 mol). The reaction was stirred for 20 hours and concentrated to remove MeOH. The resulting residue was dissolved in CH2Cl2, washed with H2O, brine, dried (Na2SO4), filtered and concentrated to give the title compound (102 g, 97% yield) as an orange oil.

reactant | (R)-ethyl 2-methyl-5-oxocyclopentanecarboxylate | 622 mmol, 106 g | CC1[C@H](C(CC1)=O)C(=O)OCC | C9H14O3
reactant | ammonium acetate | 3.1 mol, 240 g | C(C)(=O)[O-].[NH4+]
solvent | MeOH | 1.2 L | CO | CH4O
product | (R)-ethyl 2-amino-5-methylcyclopent-1-enecarboxylate | 102 g, 97% yield | NC1=C([C@@H](CC1)C)C(=O)OCC | C9H15NO2
